US07511035B2
(c) 1,1-dimethylethyl {2-hydroxy-2-[1-(phenylmethyl)-4-piperidinyl]ethyl}carbamate
To a solution of 2-amino-1-[1-(phenylmethyl)-4-piperidinyl]ethanol (2.2 g, 9.4 mmol) in CH3CN-THF (50 mL, 1:1) at 25° C. was added Boc2O (2.4 mL, 11.2 mmol). After 0.5 h, the solution was concentrated and the residue purified via column chromatography (silica, 3-5% MeOH in DCM (1% NH4OH)) yielding the title compound (2 g, 64%) as a yellow oil: LCMS (ES) m/e 335 (M+H)+.

reactant | 2-amino-1-[1-(phenylmethyl)-4-piperidinyl]ethanol | 9.4 mmol, 2.2 g | NCC(O)C1CCN(CC1)CC1=CC=CC=C1 | C14H22N2O
reactant | Boc2O | 11.2 mmol, 2.4 mL | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH3CN THF | 50 mL | CC#N.C1CCOC1
product | 1,1-dimethylethyl {2-hydroxy-2-[1-(phenylmethyl)-4-piperidinyl]ethyl}carbamate | 2 g, 64% | OC(CNC(OC(C)(C)C)=O)C1CCN(CC1)CC1=CC=CC=C1 | C19H30N2O3
